US08877741B2
6-Bromo-N-(2,2-difluoroethyl)-N-methylpyridin-2-amine
88.0 mg (0.50 mmol) 2-bromo-2-fluoropyridine, 78.9 mg (0.60 mmol) (2,2-difluoro-ethyl)-methyl-amine hydrochloride and 0.17 mL (1.00 mmol) DIPEA are stirred at 90° C. over night. The reaction is quenched by the addition of water and extracted with DCM. The combined org. layers are dried over MgSO4, filtered and the solvent is removend in vacuo.

reactant | 2-bromo-2-fluoropyridine | 0.50 mmol, 88.0 mg | BrC1(NC=CC=C1)F | C5H5BrFN
reactant | (2,2-difluoro-ethyl)-methyl-amine hydrochloride | 0.60 mmol, 78.9 mg | Cl.FC(CNC)F
reactant | DIPEA | 1.00 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
product | 6-Bromo-N-(2,2-difluoroethyl)-N-methylpyridin-2-amine | BrC1=CC=CC(=N1)N(C)CC(F)F | C8H9BrF2N2
